US06716851B2
4-(2,5-Dimethylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2,5-dimethylaniline (48 μl, 0.386 mmol) similar to Example 58 and isolated as a light tan solid (14mg, 21%). 1H NMR (CDCl3): 9.70 (dd, J=0.8, 2.0 Hz, 1H), 8.74-8.70 (m, 1H), 8.67 (dd, J=1.8, 4.8 Hz, 1H), 7.75 (s, 1H), 7.43-7.38 (m, 1H), 7.24 (d, J=7.5 Hz, 1H), 7.19 (s, 1H), 7.10 (d, J=7.8 Hz, 1H), 6.56 (s, 1H), 2.38 (s, 3H), 2.26 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2,5-dimethylaniline | 0.386 mmol, 48 μl | CC1=C(N)C=C(C=C1)C | C8H11N
product | 4-(2,5-Dimethylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | CC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C=C1)C | C18H15F3N4
